US04476132
19.6 g of N-ethyl-5-butyryl-4-methyl-N-(1'-oxo-2'-ethoxycarbonylethyl)-anthranilic acid ethyl ester in 60 ml of absolute ethanol are added dropwise, at room temperature, to a solution of 1.15 g of sodium in 30 ml of absolute ethanol. The yellow solution is refluxed for 3 hours. The resulting suspension is then freed of ethanol in vacuo. The residue is dissolved in ice-water and acidified with hydrochloric acid. The separated oil is extracted with methylene chloride and the methylene chloride solution is washed with water, dried over sodium sulphate, filtered and concentrated to dryness by evaporation in vacuo. An oil is obtained, which is caused to crystallise from methanol. In this manner 1-ethyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid ethyl ester having a melting point of 124°-126° is obtained.

reactant | N-ethyl-5-butyryl-4-methyl-N-(1'-oxo-2'-ethoxycarbonylethyl)-anthranilic acid ethyl ester | 19.6 g | C(C)OC(C=1C(N(C(CC(=O)OCC)=O)CC)=CC(=C(C1)C(CCC)=O)C)=O | C21H29NO6
reactant | sodium | 1.15 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-ethyl-6-butyryl-4-hydroxy-7-methylcarbostyril-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC(=C(C=C2C1O)C(CCC)=O)C)CC)=O | C19H23NO5
